US07541464B2
200 mg 1-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-1H-pyrrolo[2,3-b]pyridin-5-ol were dissolved in 20 ml dimethylformamide and 300 mg cesium carbonate and 180 mg tert.-butylbromoacetate were added. The reaction mixture was stirred at room temperature for one hour then 100 ml ethyl acetate were added and the mixture was washed five times with portions of 20 ml of water The organic layer was dried over MgSO4 and the solvent removed under reduced pressure. The residue was dissolved in 10 ml dichloromethane and 4 ml trifluoroacetic acid were added. The reaction mixture was stirred at room temperature for three hours then 100 ml toluene were added and the solvents removed under reduced pressure. The residue was purified by RP-HPLC to provide 155 mg {1-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-acetic acid as lyophilisate.

reactant | 1-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-1H-pyrrolo[2,3-b]pyridin-5-ol | 200 mg | C(CCC)C=1N=C(SC1CN1C=CC=2C1=NC=C(C2)O)C2=CC=C(C=C2)C(F)(F)F | C22H20F3N3OS
reactant | cesium carbonate | 300 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert.-butylbromoacetate | 180 mg | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | {1-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-acetic acid | 155 mg | C(CCC)C=1N=C(SC1CN1C=CC=2C1=NC=C(C2)OCC(=O)O)C2=CC=C(C=C2)C(F)(F)F | C24H22F3N3O3S
